US08211897B2
N-BOC-4-hydroxy-L-proline (A; 281 mg; 1.21 mmol) was dissolved in dimethylsulfoxide (3 mL) at room temperature then potassium t-butoxide (270 mg; 2.4 mmol) was added. The resulting solution was stirred at room temperature for 2 hours, then cooled to 0° C. A solution of 1-chloro-6-methoxy-3-methylisoquinoline in dimethylsulfoxide (3 mL) was then added dropwise to the cold solution, followed by t-BuOK, and the mixture was allowed to warn to room temperature. The solution was stirred for 16 hours. The reaction mixture was acidified to pH=4 with 5% aq. citric acid. The solution was extracted with ethyl acetate and the organic phase washed with water followed by brine. The organic phase was concentrated under reduced pressure to give (2S,4R)-1-(tert-butoxycarbonyl)-4-(6-methoxy-3-methylisoquinolin-1-yloxy)pyrrolidine-2-carboxylic acid.

reactant | N-BOC-4-hydroxy-L-proline | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CC(C1)O | C10H17NO5
reactant | potassium t-butoxide | 2.4 mmol, 270 mg | CC(C)([O-])C.[K+]
reactant | 1-chloro-6-methoxy-3-methylisoquinoline | ClC1=NC(=CC2=CC(=CC=C12)OC)C | C11H10ClNO
reactant | t-BuOK | CC(C)(C)[O-].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dimethylsulfoxide | 3 mL | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 3 mL | CS(=O)C | C2H6OS
product | (2S,4R)-1-(tert-butoxycarbonyl)-4-(6-methoxy-3-methylisoquinolin-1-yloxy)pyrrolidine-2-carboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)OC1=NC(=CC2=CC(=CC=C12)OC)C)C(=O)O | C21H26N2O6
